US07915281B2
The methods described in Part A of Example 13 were used to treat N4-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}[1,5]naphthyridine-3,4-diamine (2.6 g, 7.8 mmol) with trimethyl orthobutyrate (1.9 mL, 12 mmol) in the presence of pyridine hydrochloride (0.018 g, 0.16 mmol) and isolated and purify the final product with the modification that the silica column was eluting with 60-90% ethyl acetate in dichloromethane. 1-{[3-(4-Fluorophenyl)isoxazol-5-yl]methyl}-2-propyl-1H-imidazo[4,5-c][1,5]naphthyridine (1.08 g) was obtained as a white solid.

reactant | N4-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}[1,5]naphthyridine-3,4-diamine | 7.8 mmol, 2.6 g | FC1=CC=C(C=C1)C1=NOC(=C1)CNC1=C(C=NC2=CC=CN=C12)N | C18H14FN5O
reactant | trimethyl orthobutyrate | 12 mmol, 1.9 mL | C(CCC)(OC)(OC)OC | C7H16O3
catalyst | pyridine hydrochloride | 0.16 mmol, 0.018 g | Cl.N1=CC=CC=C1
product | 1-{[3-(4-Fluorophenyl)isoxazol-5-yl]methyl}-2-propyl-1H-imidazo[4,5-c][1,5]naphthyridine | 1.08 g | FC1=CC=C(C=C1)C1=NOC(=C1)CN1C(=NC=2C=NC=3C=CC=NC3C21)CCC | C22H18FN5O
